US04258181
9,10-Anthracenedicarboxaldehyde bis(2-pyridylhydrazone)
A suspension of 4.68 g. of 9,10-anthracenedicarboxaldehyde in 200 ml. of ethanol containing 4.37 g. of 2-hydrazinopyridine and 2 drops of acetic acid is stirred and heated under reflux for two hours, then allowed to cool. Collection by filtration and washing with ethanol gives the desired product as an orange solid, which sinters from 267° C. to 272° C. (dec.).

reactant | 9,10-anthracenedicarboxaldehyde | C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | C16H10O2
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 4.37 g | C(C)O | C2H6O
product | 9,10-Anthracenedicarboxaldehyde bis(2-pyridylhydrazone) | N1=C(C=CC=C1)NN=CC=1C2=CC=CC=C2C(=C2C=CC=CC12)C=NNC1=NC=CC=C1 | C26H20N6
